US05397798
A. 2-Amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide
Twenty grams (0.123 mol) of isatoic anhydride were slowly added to a cold (0° C.) solution of 13.5 g (0.122 mol) of 2-(2-aminoethyl)imidazole in 220 ml isopropanol, under nitrogen. The reaction mixture was gradually warmed to room temperature and allowed to react. When the reaction was complete, as indicated by thin layer chromatography, the solution was reduced to dryness under reduced pressure and the resultant residue was redissolved in an ethyl acetate/aqueous sodium bicarbonate mixture. The resulting layers were separated, the organic layer was washed with water and reduced to dryness to provide a solid. This solid was recrystallized from ethanol containing a small amount of hexane to provide 24.1 g of the desired subtitled intermediate (m.p. 180°-185° C.).

reactant | isatoic anhydride | 0.123 mol, Twenty grams | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 2-(2-aminoethyl)imidazole | 0.122 mol, 13.5 g | NCCC=1NC=CN1 | C5H9N3
solvent | isopropanol | 220 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide | 24.1 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
